US05049674
Preparation of 5-fluoro-2-[[(4-cyclopropylmethoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole
5- Fluoro-2-[[(4-cyclopropylmethoxy-2-pyridinyl)methyl]thio]-1H-benz-imidazole (1.25 g, 0.0036 mol) was dissolved in CH2Cl2 (40 ml). NaHCO3 (0.6 g, 0.0072 mol) dissolved in H2O (20 ml) was added and the mixture was cooled to +2° C. m-Chloroperbenzoic acid, 84% (0.73 g, 0.0036 mol) dissolved in CH2Cl2 (5 ml) was added under stirring. Stirring was continued at room temperature for 15 min. The two phases were separated and NaOH (0.29 g, 0.0072 mol) dissolved in H2O (25 ml) was added to the organic phase. The mixture was stirred, the phases were separated and the H2O phase was treated with Norite and filtered. Methylformiate (0.45 ml, 0.0073 mol) dissolved in H2O (5 ml) was added dropwise under stirring. After extraction with CH2Cl2 and drying with Na2SO4 the solvent was evaporated. In this way the title compound was obtained [0.93 g, 69%). NMR data for the final product is given below. NMR data for the intermediates are given below.

reactant | 5- Fluoro-2-[[(4-cyclopropylmethoxy-2-pyridinyl)methyl]thio]-1H-benz-imidazole | 0.0036 mol, 1.25 g | FC1=CC2=C(NC(=N2)SCC2=NC=CC(=C2)OCC2CC2)C=C1 | C17H16FN3OS
reactant | NaHCO3 | 0.0072 mol, 0.6 g | C(=O)(O)[O-].[Na+]
reactant | m-Chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaOH | 0.0072 mol, 0.29 g | [OH-].[Na+]
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 20 ml | O | H2O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 ml | O | H2O
product | 5-fluoro-2-[[(4-cyclopropylmethoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | FC1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2)OCC2CC2)C=C1 | C17H16FN3O2S
